US08729063B2
N-(2-{[(3-(Fluoromethyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide. To a solution of 578 mg (1.29 mmol) of tert-butyl 3-(fluoromethyl)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidine-1-carboxylate in 5 mL of THF was added 2 mL of 4 N HCl dioxane solution. The reaction mixture was stirred at room temperature for 1 h and evaporated to give the yellow solid, N-(2-{[3-(fluoromethyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide HCl salt: MS (m/e): 347 (M+1)+.

reactant | 2-{[(3-(Fluoromethyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | FCC1(CNCC1)NC(CC1=C(C(=O)N)C=CC=C1C(F)(F)F)=O | C15H17F4N3O2
reactant | tert-butyl 3-(fluoromethyl)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]pyrrolidine-1-carboxylate | 1.29 mmol, 578 mg | FCC1(CN(CC1)C(=O)OC(C)(C)C)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C20H25F4N3O4
reactant | HCl dioxane | 4 N, 2 mL | O1CCOCC1.Cl
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-{[3-(fluoromethyl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide HCl salt | Cl.FCC1(CNCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | InChI=1S/C15H17F4N3O2.ClH/c16-8-14(4-5-20-9-14)22-12(23)7-21-13(24)10-2-1-3-11(6-10)15(17,18)19;/h1-3,6,20H,4-5,7-9H2,(H,21,24)(H,22,23);1H
